US04159375
7-(o-Chlorophenyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine
A solution of 14 g. of o-chlorophenylglyoxal, 10.6 g. of 3,4-diamino-4H-1,2,4-triazole and 6.3 g. of sodium acetate in 180 ml. of 67% acetic acid is heated on a steam bath and then filtered through celite. The filtrate is heated for an additional hour and then allowed to stand at room temperature for several days, producing the desired product as a cream colored solid, m.p. 162°-165° C.

reactant | o-chlorophenylglyoxal | ClC1=C(C=CC=C1)C(=O)C=O | C8H5ClO2
reactant | 3,4-diamino-4H-1,2,4-triazole | NC1=NN=CN1N | C2H5N5
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(o-Chlorophenyl)-1,2,4-triazolo[4,3-b]-1,2,4-triazine | ClC1=C(C=CC=C1)C1=NC=2N(N=C1)C=NN2 | C10H6ClN5
